US06265411B1
5-Bromo-1-diethoxymethyloxindole (942 mg, 3 mmol) and sodium hydride (138 mg, 5.8 mmol, pre-washed with petroleum ether) were added successively to a solution of 4-chloro-6-methoxy-7-(2-methoxyethoxy)quinazoline (269 mg, 1 mmol), (prepared as described for the starting material in Example 2), in THF (25 ml) at ambient temperature. After stirning for 2 hours at ambient temperature, the volatiles were removed by evaporation and the residue dissolved in methylene chloride. The solution was washed with an aqueous saturated sodium chloride solution, dried (MgSO4) and the solvent evaporated. The residue was purified by column flash chromatography using an increasingly polar mixture of methylene chloride and ethyl acetate followed by a 7/3 mixture of methylene chloride/acetonitrile as eluent. The purified product was triturated with ether, collected by filtration, washed with a 1/1 mixture of ether/petroleum ether and dried under vacuum to give 4-(5-bromo-1-diethoxymethyloxindol-3-yl)-6-methoxy-7-(2-methoxyethoxy)quinazoline (400 mg, 73%) as a yellow-orange solid.

reactant | 5-Bromo-1-diethoxymethyloxindole | 3 mmol, 942 mg | BrC=1C=C2CC(N(C2=CC1)C(OCC)OCC)=O | C13H16BrNO3
reactant | sodium hydride | 5.8 mmol, 138 mg | [H-].[Na+]
reactant | 4-chloro-6-methoxy-7-(2-methoxyethoxy)quinazoline | 1 mmol, 269 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCOC | C12H13ClN2O3
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | 4-(5-bromo-1-diethoxymethyloxindol-3-yl)-6-methoxy-7-(2-methoxyethoxy)quinazoline | 400 mg, 73% | BrC=1C=C2C(C(N(C2=CC1)C(OCC)OCC)=O)C1=NC=NC2=CC(=C(C=C12)OC)OCCOC | C25H28BrN3O6
